US08981154B2
Tapentadol free base (2.1 g) was added to 2-butanone (32 ml), the mixture was heated to reflux and followed by the addition of water (0.22 ml) and trimethylchlorosilane (1.6 ml) at the same temperature and then maintaining for 1 hour. The resulting mass was cooled at 20-25° C. The resulting solid was filtered, the product was washed with pre-cooled 2-butanone (4 ml) and then the solid was dried at 25° C. for 3 hours to produce 1.8 g of tapentadol hydrochloride salt (Purity by HPLC: 97.78%).

reactant | Tapentadol | 2.1 g | CC[C@@H](C=1C=CC=C(C1)O)[C@@H](C)CN(C)C | C14H23NO
reactant | 2-butanone | 32 ml | CC(CC)=O | C4H8O
reactant | trimethylchlorosilane | 1.6 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | water | 0.22 ml | O | H2O
product | tapentadol hydrochloride | 1.8 g, 97.78% | CC[C@@H](C=1C=CC=C(C1)O)[C@@H](C)CN(C)C.Cl | InChI=1S/C14H23NO.ClH/c1-5-14(11(2)10-15(3)4)12-7-6-8-13(16)9-12;/h6-9,11,14,16H,5,10H2,1-4H3;1H/t11-,14+;/m0./s1
